US07560551B2
A RBF was charged with 3-chloro-4-methyl-6-phenylpyridazine (5.0 g, 24 mmol) and 120 mL of THF under nitrogen, and the solution was cooled to −78° C. Lithium diisopropylamide, 2.0M in heptane/THF/ethylbenzene (15 ml, 29 mmol) was added and the mixture was stirred at −78° C. for 5 min, followed by RT for 1 h. The mixture was cooled to −78° C. and methyl iodide (1.8 ml, 29 mmol), which had been passed through a plug of basic alumina prior to use, was added dropwise. After stirring at −78° C. for 5 min, the reaction was stirred at RT for 0.5 h. Water was added to quench the reaction, and the mixture was concentrated and partitioned between dichloromethane and water. The layers were separated and the aqueous portion was extracted with additional DCM. The combined organics were dried with MgSO4, filtered and concentrated. The crude material was purified by silica gel chromatography (100% DCM to 95/5 DCM/MeOH) to provide 3-chloro-4-ethyl-6-phenylpyridazine as a tan solid. MS m/z=219 [M+H]+. Calc'd for C12H11ClN2: 218.68.

reactant | 3-chloro-4-methyl-6-phenylpyridazine | 24 mmol, 5.0 g | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 29 mmol, 15 ml | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | methyl iodide | 29 mmol, 1.8 ml | CI | CH3I
solvent | Water | O | H2O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 3-chloro-4-ethyl-6-phenylpyridazine | ClC=1N=NC(=CC1CC)C1=CC=CC=C1 | C12H11ClN2
